US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 7-bromo-1-(1-methyl-1 H-indol-3-yl)-1-heptanone were reacted and treated in the same manner as in Example 172 to give 4-amino-5-chloro-2-methoxy-N-((1-(7-(1-methyl-1 H-indol-3-yl)-7-oxoheptyl)piperidin-4-yl)methyl)benzamide hydrochloride.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 7-bromo-1-(1-methyl-1 H-indol-3-yl)-1-heptanone | BrCCCCCCC(=O)C1=CN(C2=CC=CC=C12)C | C16H20BrNO
product | 4-amino-5-chloro-2-methoxy-N-((1-(7-(1-methyl-1 H-indol-3-yl)-7-oxoheptyl)piperidin-4-yl)methyl)benzamide hydrochloride | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCC(=O)C2=CN(C3=CC=CC=C23)C)C=C1Cl)OC | InChI=1S/C30H39ClN4O3.ClH/c1-34-20-24(22-9-6-7-10-27(22)34)28(36)11-5-3-4-8-14-35-15-12-21(13-16-35)19-33-30(37)23-17-25(31)26(32)18-29(23)38-2;/h6-7,9-10,17-18,20-21H,3-5,8,11-16,19,32H2,1-2H3,(H,33,37);1H
